US05118534
Carbon dioxide is bubbled through an acetonitrile (60 ml) solution of 10 g (52.8 mmoles) of 2-(octylthio)ethylamine to afford a white precipitate which is isolated by suction filtration. The product is washed three times with 10 ml portions of acetonitrile and is then washed three times with 20 mls portions of methyl t-butyl ether. The product is air dried to give 7.77 g of octylthioethylamine carbamic acid derivative as a white powder (yield, 62.1%). The product is further characterized by IR, proton NMR, and elemental analysis.

reactant | Carbon dioxide | C(=O)=O | CO2
reactant | 2-(octylthio)ethylamine | 52.8 mmoles, 10 g | C(CCCCCCC)SCCN | C10H23NS
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | octylthioethylamine carbamic acid | 7.77 g | C(N)(O)=O.C(CCCCCCC)SCCN | InChI=1S/C10H23NS.CH3NO2/c1-2-3-4-5-6-7-9-12-10-8-11;2-1(3)4/h2-11H2,1H3;2H2,(H,3,4)
